US09102637B2
(b) ethyl 2-bromo-5-(4-fluorobenzamido)-thiazole-4-carboxylate
To a mixture of ethyl 5-amino-2-bromothiazole-4-caboxylate (0.50 g, 1.99 mmol) and a catalytic amount of DMAP in pyridine (5 mL) was added a solution of 4-fluorobenzoyl chloride (0.377 g, 2.39 mmol) in pyridine (5 mL) at 0° C. The mixture was allowed to warm to rt, and stirred for 16 hrs. The reaction mixture was quenched with ice-water, and the resulting solids were collected. The solids were purified by silica gel column chromatography eluted with 20% EtOAc in hexane to give 0.70 g (93% yield) of the title compound.

reactant | ethyl 5-amino-2-bromothiazole-4-caboxylate | 1.99 mmol, 0.50 g | NC1=C(N=C(S1)Br)C(=O)OCC | C6H7BrN2O2S
reactant | 4-fluorobenzoyl chloride | 2.39 mmol, 0.377 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 2-bromo-5-(4-fluorobenzamido)-thiazole-4-carboxylate | 0.70 g, 93% yield | BrC=1SC(=C(N1)C(=O)OCC)NC(C1=CC=C(C=C1)F)=O | C13H10BrFN2O3S
